US07687491B2
(22h) 1-({3-Ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylic acid
The title compound (0.16 g) was synthesized in a yield of 95% as a white crystalline solid by conducting the reaction similar to that mentioned in Example 3 (3e) using methyl 1-({3-ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate (0.17 g, 0.36 mmol) that was obtained in Example 22 (22g), a 1 N aqueous solution of sodium hydroxide (1.1 mL, 1.1 mmol), and acetic acid (62 μL, 1.1 mmol).

reactant | methyl 1-({3-ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate | 0.36 mmol, 0.17 g | C(C)C1=C(SC(=C1)C1=NOC(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1)CN1CC(C1)C(=O)OC | C26H25N3O4S
reactant | sodium hydroxide | 1.1 mmol, 1.1 mL | [OH-].[Na+]
reactant | acetic acid | 1.1 mmol, 62 μL | C(C)(=O)O | C2H4O2
product | 1-({3-Ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylic acid | 0.16 g, yield of 95% | C(C)C1=C(SC(=C1)C1=NOC(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1)CN1CC(C1)C(=O)O | C25H23N3O4S
